US07241890B2
A solution of 5-amino-4,6-dichloropyrimidine (1 mmol) in n-BuOH was treated with Et3N (1.2 mmol) and n-Butylamine (1.0 mmol) at 80 C. After 16 h, solvent was removed under reduced pressure. The residue was dissolved in EtOAc, the organic layer washed with water and then dried (MgSO4). Filtration and removal of solvent gave 6-chloro-5-amino-4-butyl pyrimidine as a brown solid. Rf=0.5 in 1:1 EtOAc:hexane. 1H NMR (CDCl3) δ 8.07 (s, 1H), 4.88 (br s, 1H), 3.49 (m, 2H), 3.35 (br s, 2H), 1.6 (m, 2H), 1.44 (m, 2), 0.95 (t, 3H).

reactant | 5-amino-4,6-dichloropyrimidine | 1 mmol | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | Et3N | 1.2 mmol | CCN(CC)CC | C6H15N
reactant | n-Butylamine | 1.0 mmol | C(CCC)N | C4H11N
solvent | n-BuOH | CCCCO | C4H10O
product | 6-chloro-5-amino-4-butyl pyrimidine | ClC1=C(C(=NC=N1)CCCC)N | C8H12ClN3
